US04379929
2-Acetylaminoacetophenone
About 200 grams of 2-aminoacetophenone were added to about 350 ml. of acetic anhydride at 0° C. After warming to ambient temperature, the reaction mixture was stirred 4 hours and, upon addition of ice water, a precipitate formed which was filtered and washed with water. The precipitate was suspended in ether and washed separately with 1 l. each of 1 N sodium hydroxide, water, 1 N hydrochloric acid, and again with 1 N sodium hydroxide. The ether suspension was dried with sodium sulfate, filtered, and concentrated. Ligroin was added and the desired product was collected by filtration. The identity of the final product was confirmed by NMR analysis; yield 215 grams, m.p. 69° C.

reactant | 2-aminoacetophenone | 200 grams | NCC(=O)C1=CC=CC=C1 | C8H9NO
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Acetylaminoacetophenone | C(C)(=O)NCC(=O)C1=CC=CC=C1 | C10H11NO2
